US08309581B2
a) 4-[5-Chloro-2-(1-cyclohexylmethyl-1H-benzoimidazol-2-yl)-phenoxymethyl]-3-fluoro-benzonitrile
The title compound was prepared in analogy to Example 19, from 5-chloro-2-(1-cyclohexylmethyl-1H-benzoimidazol-2-yl)-phenol and 4-bromomethyl-3-fluoro-benzonitrile (105942-09-4). Brown solid (69%). MS (Turbo Spray): m/z=474.4 (M+H).

reactant | 5-chloro-2-(1-cyclohexylmethyl-1H-benzoimidazol-2-yl)-phenol | ClC=1C=CC(=C(C1)O)C1=NC2=C(N1CC1CCCCC1)C=CC=C2 | C20H21ClN2O
reactant | 4-bromomethyl-3-fluoro-benzonitrile | BrCC1=C(C=C(C#N)C=C1)F | C8H5BrFN
product | 4-[5-Chloro-2-(1-cyclohexylmethyl-1H-benzoimidazol-2-yl)-phenoxymethyl]-3-fluoro-benzonitrile | ClC=1C=CC(=C(OCC2=C(C=C(C#N)C=C2)F)C1)C1=NC2=C(N1CC1CCCCC1)C=CC=C2 | C28H25ClFN3O
